US09029409B2
To a cold solution of 1-methyl-2-oxo-1,2-dihydropyridine-4-carboxamide (7.2 g, 47.3 mmol, Journal of Organic Chemistry, 1959, 24, 196) in DCM (70 mL) was added TEA (13.19 mL, 95 mmol) and TFAA (8.02 mL, 56.8 mmol) at about 0° C. The reaction mixture was stirred for about 2 h at about 0° C. The reaction mixture was filtered and the filtrate was diluted with DCM (100 mL). The organic layer was washed successively with water (2×70 mL) and brine (1×70 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford 1-methyl-2-oxo-1,2-dihydropyridine-4-carbonitrile as a white solid 3.3 g, (52.0%), 1H NMR (400 MHz, DMSO) δ: 7.94-7.92 (d, J=7.2 Hz, 1H), 7.00 (s, 1H), 6.53-6.50 (dd, J=2 Hz, 1 Hz), 3.45 (s, 3H), LC/MS (Table 1, Method d) Rt=0.77 min.

reactant | 1-methyl-2-oxo-1,2-dihydropyridine-4-carboxamide | 47.3 mmol, 7.2 g | CN1C(C=C(C=C1)C(=O)N)=O | C7H8N2O2
reactant | TFAA | 56.8 mmol, 8.02 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-oxo-1,2-dihydropyridine-4-carbonitrile | 3.3 g | CN1C(C=C(C=C1)C#N)=O | C7H6N2O
